US04215123
1-Allyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester
To a solution of 2.88 g. (0.015 mole) of 2-allylamino-6-methylnicotinic acid, methyl ester in 50 ml. of anhydrous diethyl ether was added 1.12 g. (0.0075 mole) of ethyl malonyl chloride. The mixture was stirred at room temperature for 4 hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was dissolved in 5 ml. of ethanol and this solution was added to a solution of 0.23 g. (0.01 g. atoms) of sodium in 20 ml. of ethanol. The mixture was stirred at room temperature for 5 minutes. The mixture was diluted with water and was acidified with glacial acetic acid. The mixture was extracted with diethyl ether and the ether layer was dried over magnesium sulfate, filtered and was acidified with an etheral hydrochloric acid solution. The mixture was filtered and the filtrate was evaporated. The residue was recrystallized from heptane to give 10 mg. of the title compound, m.p. 110°-112° C.

reactant | 2-allylamino-6-methylnicotinic acid, methyl ester | 0.015 mole | C(C=C)NC1=C(C(=O)OC)C=CC(=N1)C | C11H14N2O2
reactant | ethyl malonyl chloride | 0.0075 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 1-Allyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1O)C)CC=C)=O | C15H16N2O4
